US03957772
To 2.31 liters of DMF is added 479 grams (2.75 moles) of 3-(chloroacetamino)-5-methylisoxazole followed by 669 grams (2.9 moles) of sodium saccharin dihydrate. The mixture is heated to 100°C. and this temperature is maintained for 2 hours. The cooled reaction mixture is poured into 8 liters of water, filtered and the wet cake is recrystallized from 15 liters of ethanol to give 658 grams (74.8%) of 2,3,dihydro-N-(5-methyl-3-isoxazolyl)-3-oxo-1,2-benzisothiazole-2-acetamide 1,1-dioxide, mp 218°-220°C.; I.R. and NMR spectra are consistant with the structure.

reactant | DMF | 2.31 liters | CN(C)C=O | C3H7NO
reactant | 3-(chloroacetamino)-5-methylisoxazole | 2.75 moles, 479 grams | ClN(C(=O)C)C1=NOC(=C1)C | C6H7ClN2O2
reactant | sodium saccharin dihydrate | 2.9 moles, 669 grams | O.O.S1(=O)(=O)NC(=O)C2=CC=CC=C12.[Na]
solvent | water | 8 liters | O | H2O
product | 2,3,dihydro-N-(5-methyl-3-isoxazolyl)-3-oxo-1,2-benzisothiazole-2-acetamide 1,1-dioxide | 658 grams, 74.8% | CC1=CC(=NO1)NC(CN1S(C2=C(C1=O)C=CC=C2)(=O)=O)=O | C13H11N3O5S
